US05455253
A suspension of 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4(3-nitrophenyl)-2,3,4,6,7,8-hexahydro-5(1H)-quinolone (7.02 g) in ethanol (40 ml) and water (40 ml) was treated with lithium hydroxide monohydrate (1.44 g). The mixture was heated at 90° C. for 30 minutes, diluted with water, acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The combined organic extracts were washed (water and brine), dried, filtered and the solvent stripped to yield a brown oil which was further purified by chromatography (ethyl acetate and ethyl acetate/methanol, 4:1). 3-Carboxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone (2.07 g) was obtained as a white solid. NMR: 1.85 (m,2, CH2), 2.10 (m,2, CH2), 2.33-2.60 (m,3, CH2, CH), 4.21 (d,1, J=8.7, CH), 7.47 (m,2, Ar), 7.81 (s,2, OH or NH, Ar), 7.96 (m,1H, Ar); MS: m/z=400(M).

reactant | 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4(3-nitrophenyl)-2,3,4,6,7,8-hexahydro-5(1H)-quinolone | 7.02 g | C(=O)(OCC)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)(O)C(F)(F)F | C19H19F3N2O6
reactant | lithium hydroxide monohydrate | 1.44 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 3-Carboxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.07 g | C(=O)(O)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)(O)C(F)(F)F | C17H15F3N2O6
